US07109186B2
Compound 860: 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methoxy-(4-trifluoromethyl-benzyl)-amide
Reaction of 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-N-(4-trifluoromethyl-benzyl)-acetamide (0.41 g, 1.13 mmol) with the paraformaldehyde-N-(2-aminoethyl)morpholine adduct in methanol using a procedure similar to the one described in the preparation of compound 13 gave 0.38 g (75% yield) of the title compound as crystals after chromatography on reversed phase silica gel; mp 119° C. (dec) (ethyl acetate-hexane). 1HNMR 400 MHz (CDCl3) δ (ppm); 2.48 (4H, m, 2×NCH2), 2.58 (2H, t, J=6.3 Hz, NCH2), 3.64 (2H, t, J=6.3 Hz, NCH2), 3.67 (4H, m, 2×OCH2), 3.75 (3H, s, OCH3), 4.31 (2H, s, NCH2), 4.94 (2H, s, NCH2), 7.47 (2H, d, J=8.1 Hz, aromatics), 7.63 (2H, d, J=8.1 Hz, aromatics). Anal. Calcd for C20H24F3N3O5: C, 54.17; H, 5.46; N, 9.48. Found: C, 54.12; H, 5.57; N, 9.52.

reactant | 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-N-(4-trifluoromethyl-benzyl)-acetamide | 1.13 mmol, 0.41 g | CC1(OC(C(O1)=CC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)OC)=O)C | C16H16F3NO5
reactant | paraformaldehyde N-(2-aminoethyl)morpholine | C=O.NCCN1CCOCC1
solvent | methanol | CO | CH4O
product | 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methoxy-(4-trifluoromethyl-benzyl)-amide | 0.38 g, 75% yield | CON(C(=O)C=1CN(C(C1O)=O)CCN1CCOCC1)CC1=CC=C(C=C1)C(F)(F)F | C20H24F3N3O5
